US07084290B2
Preparation of methyl pentafluoroethanesulfonate
5.74 g (15.0 mmol) of pentafluoroethanesulfonic anhydride and 0.31 g (1.55 mmol) of pentafluoroethanesulfonic acid are initially introduced in a 10 ml round-necked flask. 1.35 g (15.0 mmol) of dimethyl carbonate are added at room temperature with constant stirring and reflux cooling. The solution is stirred for one hour at a temperature of 60° C. and subsequently for a further 3 hours at 110° C. After distillation, 5.41 g of methyl pentafluoroethanesulfonate are isolated (boiling range: 114–115° C., yield: 84.1%).

reactant | pentafluoroethanesulfonic anhydride | 15.0 mmol, 5.74 g | FC(C(S(=O)(=O)OS(=O)(=O)C(C(F)(F)F)(F)F)(F)F)(F)F | C4F10O5S2
reactant | pentafluoroethanesulfonic acid | 1.55 mmol, 0.31 g | FC(C(S(=O)(=O)O)(F)F)(F)F | C2HF5O3S
reactant | dimethyl carbonate | 15.0 mmol, 1.35 g | C(OC)(OC)=O | C3H6O3
product | methyl pentafluoroethanesulfonate | yield: 84.1% | FC(C(S(=O)(=O)OC)(F)F)(F)F | C3H3F5O3S
